US07030139B2
56E: N-[1-(cyclohexylmethyl)-2-[1-(4-ethoxyphenyl)ethyl]-1H-benzimidazol-5-yl]-N-methyl -N′-(1-methylethyl)urea
To a solution of 1-(cyclohexylmethyl)-2-[1-(4-ethoxyphenyl)ethyl]-N-methyl-1H-benzimidazol-5-amine (2.1 g, 5.4 mmol) in 1,2-dichloroethane (270 mL) was added isopropyl isocyanate (1.1 mL, 10.8 mmol) at room temperature and the reaction mixture was heated at 60° C. overnight. The solution was cooled to room temperature, the solvent was evaporated and the brown residue was purified by MPLC (EtOAc on silica gel) to afford the title compound as a beige foam (1.5 g, 58%). 1H NMR (400 MHz, CD3OD) δ 0.95–1.18 (m, 11H), 1.36 (t, J =7.0 Hz, 3H), 1.41–1.68 (m, 6H), 1.82 (d, J=7.0 Hz, 2H), 3.31 (s, 3H), 3.89–3.95 (m, 1H), 4.01 (apq, J=7.0 Hz, 2H), 4.13–4.18 (m, 1H), 4.68 (q, J=7.2 Hz, 1H), 7.17–7.20 (m, 2H), 7.35 (dd, J=2.0, 8.8 Hz, 1H), 7.63 (d, J=2.0 Hz, 1H), 7.71 (d, J=8.8 Hz, 1H). MS (ESI) (M+H)+=477.48 (M+1)+. Anal. Calcd for C29H40N4O2+0.5HCl+0.8 CH3OH: C, 68.76; H, 8.46; N, 10.26. Found: C, 68.75; H, 8.61; N, 10.98.

reactant | 1-(cyclohexylmethyl)-2-[1-(4-ethoxyphenyl)ethyl]-N-methyl-1H-benzimidazol-5-amine | 5.4 mmol, 2.1 g | C1(CCCCC1)CN1C(=NC2=C1C=CC(=C2)NC)C(C)C2=CC=C(C=C2)OCC | C25H33N3O
reactant | isopropyl isocyanate | 10.8 mmol, 1.1 mL | C(C)(C)N=C=O | C4H7NO
reactant | 1,2-dichloroethane | 270 mL | ClCCCl | C2H4Cl2
product | N-[1-(cyclohexylmethyl)-2-[1-(4-ethoxyphenyl)ethyl]-1H-benzimidazol-5-yl]-N-methyl -N′-(1-methylethyl)urea | 1.5 g, 58% | C1(CCCCC1)CN1C(=NC2=C1C=CC(=C2)N(C(=O)NC(C)C)C)C(C)C2=CC=C(C=C2)OCC | C29H40N4O2
